US07645771B2
tert-butyl 4-[3-(4-methoxybenzyl)-1,2,4-oxadiazol-5-yl]piperidine-1-carboxylate
1-(tert-Butoxycarbonyl)piperidine-4-carboxylic acid (2.29 g, 10.0 mmoles) in 10 mL DMF was treated with 1,1′-carbonyldiimidazole (1.62 g, 10 mmoles, 1 eq.) at ambient temperature for 30 min until CO2 evolution ceased. (1Z)-N′-hydroxy-2-(4-methoxyphenyl)ethanimidamide [J. Med. Chem., 36(11), 1529 (1993)] (10.0 mmoles, 1 eq.) was dissolved in 5 mL DMF and added to the reaction mixture. The reaction mixture was heated at 70° C. for 6 h then at 120° C. for an additional 6 h. The reaction mixture was diluted with EtOAc and washed successively with water, 1N citric acid, saturated aqueous NaHCO3, and brine. The organic phase was isolated, dried over MgSO4, filtered and concentrated to give the title compound as an amber oil. 1H NMR (300 MHz, CDCl3) δ 7.26 (d, 2H, J=8.5 Hz), 6.88 (d, 2H, J=8.5 Hz), 4.10 (m, 2H), 4.00 (s, 2H), 3.80 (s, 3H), 3.08 (m, 1H), 2.97-2.90 (m, 2H), 2.04 (m, 2H), 1.87-1.73 (m, 2H), 1.47 (s, 9H). ES-LCMS m/z 395.99 (M+Na).

reactant | 1-(tert-Butoxycarbonyl)piperidine-4-carboxylic acid | 10.0 mmoles, 2.29 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 1,1′-carbonyldiimidazole | 10 mmoles, 1.62 g, 1 eq. | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | CO2 | C(=O)=O | CO2
reactant | (1Z)-N′-hydroxy-2-(4-methoxyphenyl)ethanimidamide | 10.0 mmoles, 1 eq. | O\N=C(\CC1=CC=C(C=C1)OC)/N | C9H12N2O2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | tert-butyl 4-[3-(4-methoxybenzyl)-1,2,4-oxadiazol-5-yl]piperidine-1-carboxylate | COC1=CC=C(CC2=NOC(=N2)C2CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C20H27N3O4
